US08183246B2
1-(4-Ethylphenyl)-2-hydroxy-2-phenylethanone
Dissolve 290 ml (2.069 mol) diisopropylamine in 3.6 litres DME and precool to −78° C. Add 820 ml (2.05 mol) n-butyllithium (2.5 M solution in hexane) dropwise in the space of approx. 20 min (temperature<−60° C.). After 15 min at −60° C., add a solution of 435 g (1.864 mol) (4-ethylphenyl)[(trimethylsilyl)oxy]acetonitrile in 1.4 litres DME dropwise (temperature<−60° C.). Stir the mixture for a further 30 min at −60° C., before adding a solution of 189.5 ml (1.864 mol) benzaldehyde in 1.4 litres DME (time approx. 20 min, temperature −60° C.). Heat the mixture over a period of 4 h to RT, before adding 7 litre satd. ammonium chloride solution. Extract the reaction mixture with ethyl acetate. After phase separation, wash the organic phase with satd. ammonium chloride solution, dry, and concentrate by vacuum evaporation. Dissolve the residue in 7 litres dioxan and 5 litres methanol, and add 6 litres 1 N hydrochloric acid. Stir the mixture overnight at RT, then, after adding 11 litres satd. sodium chloride solution, extract with 6.5 litres ethyl acetate. Wash the organic phase with water and with satd. sodium chloride solution, dry, and concentrate by vacuum evaporation. Dissolve the residue in 2 litres diisopropyl ether, add seed crystals and stir for 2 h. The precipitated solid is filtered with suction, washed with 300 ml diisopropyl ether and petroleum ether and dried under vacuum. Concentrate the mother liquor, and after storing for 2 days at 4° C., again filter off the precipitated solid with suction, wash with approx. 100 ml diisopropyl ether and petroleum ether and dry under vacuum. On combining the two solids, 154.9 g (34% of theor.) of the target product is obtained.

reactant | diisopropylamine | 2.069 mol, 290 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.05 mol, 2.5 M, 820 ml | C(CCC)[Li]
reactant | (4-ethylphenyl)[(trimethylsilyl)oxy]acetonitrile | 1.864 mol, 435 g | C(C)C1=CC=C(C=C1)C(C#N)O[Si](C)(C)C | C13H19NOSi
reactant | benzaldehyde | 1.864 mol, 189.5 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DME | 3.6 litres | COCCOC | C4H10O2
solvent | DME | 1.4 litres | COCCOC | C4H10O2
solvent | DME | 1.4 litres | COCCOC | C4H10O2
product | 1-(4-Ethylphenyl)-2-hydroxy-2-phenylethanone | C(C)C1=CC=C(C=C1)C(C(C1=CC=CC=C1)O)=O | C16H16O2
